US07199257B1
N-[4-cyano-3-trifluoromethyl-phenyl]-2-hydroxy-3-methanesulfonyloxy-2-methyl-propionamide
A solution of 46 g (0.16 mol) of N-[4-cyano-3-trifluoromethyl-phenyl]-2,3-dihydroxy-2-methyl-propionamide in 1 1 of dichloromethane and 46 ml (0.57 mol) of dry pyridine was cooled to 0° C. and 46 ml (0.59 mol) of methanesulfonyl chloride was added dropwise. The mixture was stirred at 0° C. for 5 h, then washed three times with 500 ml of saturated aqueous sodium hydrogen carbonate, 500 ml of 10% aqueous hydrochloric acid and 500 ml of brine. The organic layer was dried over sodium sulfate and concentrated in vacuum. The residue was crystallized with 200 ml of petroleum ether, which has a boiling range of 40–70° C.

reactant | N-[4-cyano-3-trifluoromethyl-phenyl]-2,3-dihydroxy-2-methyl-propionamide | 0.16 mol, 46 g | C(#N)C1=C(C=C(C=C1)NC(C(CO)(C)O)=O)C(F)(F)F | C12H11F3N2O3
reactant | pyridine | 0.57 mol, 46 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.59 mol, 46 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-cyano-3-trifluoromethyl-phenyl]-2-hydroxy-3-methanesulfonyloxy-2-methyl-propionamide | C(#N)C1=C(C=C(C=C1)NC(C(COS(=O)(=O)C)(C)O)=O)C(F)(F)F | C13H13F3N2O5S
